US04547514
3-(3-Chlorophenoxy)-N-[3-(diethylamino)propyl]-1-pyrrolidinecarboxamide
A stirred solution, 13 g (0.05 mole) of 3-(3-chlorophenoxy)-1-pyrrolidinecarbonyl chloride in 100 ml of chloroform was treated with 25 mg of ice and 12.8 g of sodium carbonate after 5 min. This mixture was treated with 7.15 g (0.055 mole) of N,N-diethyl-1,3-propanediamine dropwise and allowed to stir for 78 hours. The reaction mixture was transferred to a separatory funnel and enough water was added to form two distinct phases. The organic phase (chloroform) was separated and washed with 50 ml of water; the organic portion was extracted with 50 ml of 3N hydrochloric acid, separated and washed with 2×25 ml of water. All the aqueous portions were combined and the pH adjusted to neutral with 3N sodium hydroxide and extracted with 4×30 ml of chloroform. The extract was combined, washed with water, dried over magnesium sulfate and concentrated on a rotary vacuum to a pale yellow oil (12 g). The oil was dissolved in chloroform, treated with 1.5 g of charcoal and filtered hot. This was then slurried with 25 g of silica gel and filtered. The chloroform was discarded and the silica gel washed with methanol to give, after concentrating, 4 g of pale yellow oil. This was dissolved in ethyl ether and filtered through celite.

reactant | 3-(3-chlorophenoxy)-1-pyrrolidinecarbonyl chloride | 0.05 mole, 13 g | ClC=1C=C(OC2CN(CC2)C(=O)Cl)C=CC1 | C11H11Cl2NO2
reactant | sodium carbonate | 12.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-diethyl-1,3-propanediamine | 0.055 mole, 7.15 g | C(C)N(CCCN)CC | C7H18N2
reactant | water | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-Chlorophenoxy)-N-[3-(diethylamino)propyl]-1-pyrrolidinecarboxamide | ClC=1C=C(OC2CN(CC2)C(=O)NCCCN(CC)CC)C=CC1 | C18H28ClN3O2
